US04734419
A mixture of ethyl 2-[2-{N-(3,4-dichlorobenzyl)thiocarbamoyl}anilino]acetate (4.0 g) and N,N'-thiocarbonyldiimidazole (8.97 g) was heated at 120° C. for 15 minutes, and the reaction mixture was chromatographed on silica gel (100 g) eluting with chloroform. The fractions containing the desired compound were combined and concentrated in vacuo. The residue was recrystallized from a mixture of ethyl acetate and hexane to give ethyl 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dithioxoquinazolin-1-yl]acetate (560 mg).

reactant | ethyl 2-[2-{N-(3,4-dichlorobenzyl)thiocarbamoyl}anilino]acetate | 4.0 g | ClC=1C=C(CNC(=S)C2=C(NCC(=O)OCC)C=CC=C2)C=CC1Cl | C18H18Cl2N2O2S
reactant | N,N'-thiocarbonyldiimidazole | 8.97 g | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
product | ethyl 2-[3-(3,4-dichlorobenzyl)-1,2,3,4-tetrahydro-2,4-dithioxoquinazolin-1-yl]acetate | 560 mg | ClC=1C=C(CN2C(N(C3=CC=CC=C3C2=S)CC(=O)OCC)=S)C=CC1Cl | C19H16Cl2N2O2S2
